US08614215B2
Intermediate 7: diethyl (4-methoxy-2-nitrobenzyl)phosphonate
A mixture of 1-(bromomethyl)-4-methoxy-2-nitrobenzene (14.2 g; 57.71 mmol; 1 eq) and triethyl phosphite (9.49 mL; 54.82 mmol; 0.95 eq) is heated at 120° C. for 1 h. TLC analysis using cyclohexane/EtOAc [1/1] as eluent showed that the reaction is complete. The reaction mixture is cooled down to room temperature. The crude is purified by flash chromatography to afford 16.2 g (93%) of an orange oil. Storage at −25° C. allows the product to crystallize. It is then washed with petroleum ether and filtered to afford 14.4 g (82%) of the title compound. 1H NMR (DMSO-d6) δ 7.50 (d, J=3.0 Hz, 1H), 7.45 (dd, J=9.0, 2.0 Hz, 1H), 7.28 (dd, J=9.0, 2.0 Hz, 1H), 3.98-3.89 (m, 4H), 3.84 (s, 3H), 3.64 (s, 1H), 3.57 (s, 1H), 1.14 (t, J=7.0 Hz, 6H). HPLC (max plot) 99%; Rt 3.29 min. LC/MS: (ES+): 304.3, (ES−): 302.2.

reactant | 1-(bromomethyl)-4-methoxy-2-nitrobenzene | 57.71 mmol, 14.2 g, 1 eq | BrCC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C8H8BrNO3
reactant | triethyl phosphite | 54.82 mmol, 9.49 mL, 0.95 eq | P(OCC)(OCC)OCC | C6H15O3P
solvent | cyclohexane EtOAc | C1CCCCC1.CCOC(=O)C
product | diethyl (4-methoxy-2-nitrobenzyl)phosphonate | 16.2 g, 93% | COC1=CC(=C(CP(OCC)(OCC)=O)C=C1)[N+](=O)[O-] | C12H18NO6P
